US04266014
(c) 1-(2',2',2'-trifluoroethyl)-3-methyl-2-pyrazolin-5-one
0.25 Mole (32.5 g) of ethyl acetoacetate and 0.25 mole (42 g) of 2,2,2-trifluoroethylhydrazine hydrate were stirred and refluxed for 2 hours in 125 ml of acetic acid. The acetic acid was distilled off in vacuo. The distillation residue was rubbed with water and recrystallized from methanol.

reactant | ethyl acetoacetate | 0.25 Mole, 32.5 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 2,2,2-trifluoroethylhydrazine hydrate | 0.25 mole, 42 g | O.FC(CNN)(F)F
solvent | acetic acid | 125 ml | C(C)(=O)O | C2H4O2
product | 1-(2',2',2'-trifluoroethyl)-3-methyl-2-pyrazolin-5-one | FC(CN1N=C(CC1=O)C)(F)F | C6H7F3N2O
